US04978753
In the manner given in Example 21, 2-amino-7-chloro-5-(o-chlorophenyl)-3H-1,4-benzodiazepine was heated in methanol with dimethyl acetylenedicarboxylate to give 1-carbomethoxy-9-chloro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 2-amino-7-chloro-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl | C15H11Cl2N3
reactant | dimethyl acetylenedicarboxylate | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | methanol | CO | CH4O
product | 1-carbomethoxy-9-chloro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | C(=O)(OC)C1=CC(N=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl)=O | C20H13Cl2N3O3
